US07435815B2
[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid
prepared by reaction of 4-tert-butyl-N-(6-methyl-pyridin-3-yl)-benzenesulfonamide with methyl bromoacetate

reactant | 4-tert-butyl-N-(6-methyl-pyridin-3-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=NC(=CC1)C | C16H20N2O2S
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=NC(=CC1)C)CC(=O)O | C18H22N2O4S
